US09120822B2
Sodium hydrogen carbonate (4.96 g, 59.06 mmol, 3.0 eq) is added at room temperature to a stirred solution of (4-nitro-pyrazol-1-yl)-acetic acid (3.77 g, 21.65 mmol, 1.1 eq) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (14.97 g, 39.37 mmol, 2.0 eq) in N,N-dimethylformamide (200 mL). After 1 h 30 stirring at room temperature 3-hydroxy-6-methoxy-quinoline-4-carbaldehyde (4.0 g, 19.69 mmol, 1.0 eq) is added and the resulting mixture is stirred at room temperature for 3 hours before the addition of 1,8-diazabicyclo[5,4,0]undec-7-ene (11.8 mL, 78.74 mmol, 4.0 eq). After 48 hours stirring at room temperature, the reaction mixture is poured into water (1000 mL) and the resulting solid is collected by filtration to afford 6-methoxy-3-(4-nitro-pyrazol-1-yl)-1-oxa-9-aza-phenanthren-2-one as a yellow solid (4.0 g, 57% yield).

reactant | Sodium hydrogen carbonate | 59.06 mmol, 4.96 g, 3.0 eq | C(O)([O-])=O.[Na+]
reactant | (4-nitro-pyrazol-1-yl)-acetic acid | 21.65 mmol, 3.77 g, 1.1 eq | [N+](=O)([O-])C=1C=NN(C1)CC(=O)O | C5H5N3O4
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 39.37 mmol, 14.97 g, 2.0 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 3-hydroxy-6-methoxy-quinoline-4-carbaldehyde | 19.69 mmol, 4.0 g, 1.0 eq | OC=1C=NC2=CC=C(C=C2C1C=O)OC | C11H9NO3
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 78.74 mmol, 11.8 mL, 4.0 eq | N12CCCCCC2=NCCC1 | C9H16N2
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | water | 1000 mL | O | H2O
product | 6-methoxy-3-(4-nitro-pyrazol-1-yl)-1-oxa-9-aza-phenanthren-2-one | 4.0 g, 57% yield | COC=1C=C2C=3C=C(C(OC3C=NC2=CC1)=O)N1N=CC(=C1)[N+](=O)[O-] | C16H10N4O5
